US08236798B2
To the suspension of 6-hydroxypicolinic acid (2500 mg, 17.97 mmol) in 37.75 ml of DMF were added (bromomethyl)benzene (6450 mg, 37.7 mmol) and Cs2CO3 (12300 mg, 37.7 mmol). The mixture was stirred overnight at room temperature (thin layer chromatography indicated nearly complete conversion with formation of two products, probably O- and N-alkylation). The reaction mixture was poured into water and extracted three times with ethyl acetate. The combined organic layers were successively washed with an aq. saturated NaHCO3 solution (2×), water, 10% citric acid solution (2×), and brine, dried over Na2SO4 and the solvent was removed under reduced pressure. Column chromatography on silica gel using dichloromethane/heptane (3:1) followed by dichloromethane and dichloromethane/MeOH (99:1) resulted in 6-benzyloxy-pyridine-2-carboxylic acid benzyl ester (3030 mg, 9.41 mmol, yield: 53%; ESI-MS [M+H]+=320.1) and 1-benzyl-6-oxo-1,6-dihydro-pyridine-2-carboxylic acid benzyl ester (containing minor impurities; 1920 mg, 6.01 mmol, yield: 34%; ESI-MS [M+H]+=320.1). The latter compound was hydrolyzed to the corresponding carboxylate by stirring in a solution of 10.3 ml of ethanol and 5.17 mL 2N of aq. NaOH at room temperature for 3 h. Water was added to the reaction mixture followed by extraction with ethyl acetate (3×). The aqueous layer was acidified to pH 3 using 2M HCl and then extracted three times with dichloromethane. The combined organic layers were washed with brine and dried over Na2SO4. Afterwards the solvent was removed under reduced pressure giving of the title product as a pale brown powder (1230 mg, yield: 89%).

reactant | 6-hydroxypicolinic acid | 17.97 mmol, 2500 mg | OC1=CC=CC(=N1)C(=O)O | C6H5NO3
reactant | (bromomethyl)benzene | 37.7 mmol, 6450 mg | BrCC1=CC=CC=C1 | C7H7Br
reactant | Cs2CO3 | 37.7 mmol, 12300 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 37.75 ml | CN(C)C=O | C3H7NO
product | 6-benzyloxy-pyridine-2-carboxylic acid benzyl ester | 9.41 mmol, 3030 mg, yield: 53% | C(C1=CC=CC=C1)OC(=O)C1=NC(=CC=C1)OCC1=CC=CC=C1 | C20H17NO3
